US08791235B2
c) Cbz-Asp(O-tBu)-Indanylglycine-Val-OAllyl
Indanylglycine-Val-OAllyl (0.46 g, 1.3 mmol) and Z-L-Asp(OtBu)-OH (0.425 g, 1.3 mmol) were solvated in CH2Cl2 (4.5 mL) followed by addition of 4-methylmorpholine (1.45 mL, 1.01 eq), DMAP (14 mg, 0.09 eq) then EDC (0.251 g, 1.01 eq). The mixture was stirred for 1 hour 40 min. Then it was extracted using CH2Cl2/brine. The organic layer was dried over MgSO4, concentrates and purified by silica using a gradient of EtOAc/Hexane (10 to 80%) to get 0.578 g of the desired compound.

reactant | Indanylglycine Val-OAllyl | 1.3 mmol, 0.46 g | C1(CCC2=CC=CC=C12)NCC(=O)O.N[C@@H](C(C)C)C(=O)OCC=C
reactant | Z-L-Asp(OtBu)-OH | 1.3 mmol, 0.425 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H21NO6
reactant | 4-methylmorpholine | 1.45 mL, 1.01 eq | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.251 g, 1.01 eq
solvent | CH2Cl2 | 4.5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 14 mg, 0.09 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | Cbz-Asp(O-tBu) Indanylglycine Val-OAllyl | 0.578 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1.C1(CCC2=CC=CC=C12)NCC(=O)O.N[C@@H](C(C)C)C(=O)OCC=C | InChI=1S/C16H21NO6.C11H13NO2.C8H15NO2/c1-16(2,3)23-13(18)9-12(14(19)20)17-15(21)22-10-11-7-5-4-6-8-11;13-11(14)7-12-10-6-5-8-3-1-2-4-9(8)10;1-4-5-11-8(10)7(9)6(2)3/h4-8,12H,9-10H2,1-3H3,(H,17,21)(H,19,20);1-4,10,12H,5-7H2,(H,13,14);4,6-7H,1,5,9H2,2-3H3/t12-;;7-/m0.0/s1
